US05130428
2-Amino-4-methoxy-6-trifluoromethyl-1,3,5-triazine
1.8 g of a 30% by weight solution of sodium methanolate in methanol (corresponding to 0.01 mol of sodium methanolate) were added at 22° C. to a solution of 28.8 g (0.1 mol) of 2-amino-4-trichloromethyl-6-trifluoromethyl-1,3,5-triazine in 100 ml of methanol. The pale yellow solution was then refluxed for 30 minutes. The progress of the reaction was followed by thin-layer chromatography on silica gel (mobile phase: diethyl ether/hexane 1:1). After the reaction was complete, 20 ml of water were added, followed by 2 normal hydrochloric acid until the pH was 6-7. After this most of the methanol was removed at 40° C. under reduced pressure, adding 150 ml of water a little at a time so that the product did not agglomerate. To complete precipitation of the product, the resulting mixture was then stirred at 5° C. for 1 hour, after which the product was separated off, washed with a little water and dried at 40° C. under reduced pressure.

reactant | sodium methanolate | C[O-].[Na+]
reactant | 2-amino-4-trichloromethyl-6-trifluoromethyl-1,3,5-triazine | 0.1 mol, 28.8 g | NC1=NC(=NC(=N1)C(Cl)(Cl)Cl)C(F)(F)F | C5H2Cl3F3N4
reactant | water | 20 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 0.01 mol | CO | CH4O
product | 2-Amino-4-methoxy-6-trifluoromethyl-1,3,5-triazine | NC1=NC(=NC(=N1)OC)C(F)(F)F | C5H5F3N4O
